US05593993
N-[2-(2-chlorophenyl) ethyl]-N'-[2-benzothiazolyl]thiourea
A solution of 1-[(2-benzothiazolyl)thiocarbamoyl]imidazole (2.1 g, 8 mmol) and 2-(2-chlorophenyl)-ethylamine (1.25 g, 8 mmol) in N,N-dimethylformamide (30 mL) was stirred at 100° C. for 1.5 h, the reaction was cooled to room temperature and the solvent removed in vacuo. The residue was crystallized from ethyl acetate to provide 1.6 g (57%) of the title product:

reactant | 1-[(2-benzothiazolyl)thiocarbamoyl]imidazole | 8 mmol, 2.1 g | S1C(=NC2=C1C=CC=C2)NC(=S)N2C=NC=C2 | C11H8N4S2
reactant | 2-(2-chlorophenyl)-ethylamine | 8 mmol, 1.25 g | ClC1=C(C=CC=C1)CCN | C8H10ClN
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | N-[2-(2-chlorophenyl) ethyl]-N'-[2-benzothiazolyl]thiourea | 1.6 g, 57% | ClC1=C(C=CC=C1)CCNC(=S)NC=1SC2=C(N1)C=CC=C2 | C16H14ClN3S2
